US03934008
3. H-Ala-Pro-OtBu
9.36 g of Z-Ala-Pro-OtBu are hydrogenated in 100 ml of methanol in the presence of 500 mg of Pd on charcoal (10 %) at room temperature. The hydrogen uptake has ended after 90 minutes. The solution is freed of catalyst by filtration and evaporated in a waterpump vacuum at 30°C to give an oil. This proves to be homogeneous in a thin layer chromatogram on silica gel. Rf = 0.35 in the system chloroform-methanol (1:1).

reactant | Z-Ala-Pro-OtBu | 9.36 g | N([C@@H](C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C20H28N2O5
reactant | hydrogen | [H][H] | H2
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd on charcoal | 500 mg | [Pd] | Pd
product | H-Ala-Pro-OtBu | N[C@@H](C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1 | C12H22N2O3
